US03988339
A solution of 11.0 g. of 8-chloroisoquinoline hydrochloride in 100 ml. of methanol was hydrogenated at atmospheric pressure over 0.5 g. of platinum dioxide as in Example 9. The mixture was filtered and concentrated to small volume. Ether was added, the mixture was filtered, and the solid recrystallized from ethanol to give 8-chloro-1,2,3,4-tetrahydroisoquinoline hydrochloride, m.p. 236°-238.5° C.

reactant | 8-chloroisoquinoline hydrochloride | Cl.ClC=1C=CC=C2C=CN=CC12
catalyst | platinum dioxide | [Pt](=O)=O
solvent | methanol | CO | CH4O
product | 8-chloro-1,2,3,4-tetrahydroisoquinoline hydrochloride | Cl.ClC=1C=CC=C2CCNCC12 | InChI=1S/C9H10ClN.ClH/c10-9-3-1-2-7-4-5-11-6-8(7)9;/h1-3,11H,4-6H2;1H
